US08530517B2
A solution of (E)-3-(3′-adamantan-1-yl-4′-hydroxybiphenyl-4-yl)acrylic acid tert-butyl ester (200 mg, 0.464 mmol), N-chloromethylphthalimide (91 mg, 0.464 mmol), K2CO3 (70 mg, 0.464 mmol) and NaI (70 mg, 0.464 mmol) was stirred overnight at RT in the dark. The solvent was evaporated and the residue was taken up in EtOAc. The organic phase was washed with water, dried over Na2SO4, filtered and evaporated under reduced pressure. 3-[3′-Adamantan-1-yl-4′-(1,3-dioxo-1,3-dihydroisoindol-2-ylmethoxy)-biphenyl-4-yl]acrylic acid tert-butyl ester was obtained after purification on silica gel (EtOAc/hexane 15:85) in 55% yield (150 mg).

reactant | (E)-3-(3′-adamantan-1-yl-4′-hydroxybiphenyl-4-yl)acrylic acid tert-butyl ester | 0.464 mmol, 200 mg | C(C)(C)(C)OC(\C=C\C1=CC=C(C=C1)C1=CC(=C(C=C1)O)C12CC3CC(CC(C1)C3)C2)=O | C29H34O3
reactant | N-chloromethylphthalimide | 0.464 mmol, 91 mg | ClCN1C(C=2C(C1=O)=CC=CC2)=O | C9H6ClNO2
reactant | K2CO3 | 0.464 mmol, 70 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 0.464 mmol, 70 mg | [Na+].[I-]
product | 3-[3′-Adamantan-1-yl-4′-(1,3-dioxo-1,3-dihydroisoindol-2-ylmethoxy)-biphenyl-4-yl]acrylic acid tert-butyl ester | 55% yield | C(C)(C)(C)OC(C=CC1=CC=C(C=C1)C1=CC(=C(C=C1)OCN1C(C2=CC=CC=C2C1=O)=O)C12CC3CC(CC(C1)C3)C2)=O | C38H39NO5
